US09145356B2
methyl 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoate
In the dry box, THF (500 mL) and methyl 4-hydroxybenzoate (26.6 g, 0.175 mol) were added to an oven dry RB flask equipped with a stirrer, Potassium carbonate (12.00 g, 0.087 mol) was then added. 1,1,1,2,2,3,3-Heptafluoro-3-(1,1,1,2,3,3-hexafluoro-3-(1,2,2-trifluorovinyloxy)propan-2-yloxy)propane (94.5 g, 0.219 mol) was then added via the addition funnel and the reaction allowed to stir at room temperature. The reaction mixture was heated to a gentle reflux, oil temperature about 80° C., under nitrogen overnight. An aliquot was withdrawn and concentrated under vacuum and analyzed via proton NMR that showed the complete conversion to the desired material. The cooled reaction mixture was then filtered through silica gel and then concentrated at reduced pressure, resulting in 101.52 g (99.33%) yield of the desired material.

reactant | methyl 4-hydroxybenzoate | 0.175 mol, 26.6 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | Potassium carbonate | 0.087 mol, 12.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1,2,2,3,3-Heptafluoro-3-(1,1,1,2,3,3-hexafluoro-3-(1,2,2-trifluorovinyloxy)propan-2-yloxy)propane | 0.219 mol, 94.5 g | FC(C(C(OC(C(F)(F)F)(C(OC(=C(F)F)F)(F)F)F)(F)F)(F)F)(F)F | C8F16O2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | methyl 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzoate | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=CC=C(C(=O)OC)C=C1)F | C16H8F16O5
